US09370522B2
A mixture of (E)-methyl 3-(4-methoxybenzylideneamino)benzoate (1.1 g, 4.08 mmol, 1.00 equiv), 2-phenylacetaldehyde (480 mg, 4.00 mmol, 1.00 equiv), hydrochloric acid in tetrahydrofuran (0.5 mL, 10M) and DMSO (2 mL) was placed in a 10-mL sealed tube and stirred overnight at 70° C. in an oil bath. The resulting mixture was concentrated under vacuum and purified via Flash-Prep-HPLC (H2O/CH3CN=10% increasing to H2O/CH3CN=60% within 5 min; Detector, UV 254 nm) affording 70 mg (5%) of methyl 2-(4-methoxyphenyl)-3-phenylquinoline-7-carboxylate as a yellow solid.

reactant | (E)-methyl 3-(4-methoxybenzylideneamino)benzoate | 4.08 mmol, 1.1 g, 1.00 equiv | COC1=CC=C(\C=N\C=2C=C(C(=O)OC)C=CC2)C=C1 | C16H15NO3
reactant | 2-phenylacetaldehyde | 4.00 mmol, 480 mg, 1.00 equiv | C1(=CC=CC=C1)CC=O | C8H8O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10M, 0.5 mL | O1CCCC1 | C4H8O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | methyl 2-(4-methoxyphenyl)-3-phenylquinoline-7-carboxylate | 70 mg, 5% | COC1=CC=C(C=C1)C1=NC2=CC(=CC=C2C=C1C1=CC=CC=C1)C(=O)OC | C24H19NO3
